Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
transaminitis  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with recent diagnosis of
hepatitis C and transaminitis who presents as referral from
outpatient GI doctor for persistent transaminitis.  

He was admitted into the hospital 2 days ago for asymptomatic
transaminitis, but given a protracted ED stay and inpatient
hallway chair, he left the hospital. 

As advised, he went to the lab yesterday to have his labs drawn,
and GI Dr. ___ him and urged him to return to the ED.
Per referral note, AST 993 ALT 420, slightly lower than his
inpatient levels 1150/511, respectively.  

Previous work-up ___ included: 
- Follow-up hepatitis B serologies were negative. 
- Hepatitis A was positive but IgM negative. His hepatitis C VL
was elevated at 6.3. A follow-up titer returned at 17,400,000
IUs. 
- EBV, CMV serologies IgG pos, IgM neg.  

He remains completely asymptomatic. He denies any fevers or
chills, rashes or skin discoloration/jaundice, abdominal pain,
nausea or vomiting, constipation, pale stools, hematochezia or
melena, urinary symptoms. He does have some diarrhea that is at
its baseline. He is no longer taking his pre-exposure 
prophylaxis
Truvada. Hepatitis C is not yet being treated.  

In the ED:  
- Initial vital signs were notable for: 
T 97.0 HR 85 BP 114/86 RR 20 O2 Sat 100% RA  

- Exam notable for:  Normal. No scleral icterus, normal heart 
and
lungs, nontender abdomen, no edema, and normal neuro exam.

- Labs were notable for:  
 WBC 5.3, Hb 16.6, Hct 51, plt 252  
 ___ 11.3, PTT 28.6, INR 1  
 ALT 1440, AST 698, AP 116, Tbili 0.9, lipase 64  
 Cr 1.3  

No studies or interventions were performed.

- Consults:  
Hepatology: Rec admit to medicine with hepatology consult.  

Upon arrival to the floor, he is frustrated, since he overall
feels well. He reports that his GI doctor's office called him 
and
told him that he would need a liver transplant; he feels this is
relatively extreme and out of proportion to his transaminitis or
his presentation.

We discussed that he is presenting for alarmingly high
transaminitis levels that we do attribute to an acute hepatitis 
C
infection and that we need to await their downtrending prior to
discharge. If they continue to uptrend, he may develop worsening
symptoms concerning for liver failure and would perhaps even
warrant a biopsy; this is his reason for admission.

He reports he was compliant with getting his labs drawn and with
outpatient follow-up and so is unsure why he needs to be
inpatient to have his LFTs monitored, given that we have not
begun to initiate any hepatitis C treatment or provided him any
additional therapies. He is also frustrated, since he does not
feel that his case must be very urgent if the hepatology team 
has
not yet seen him. He requests a new GI physician on discharge.

He does state that he did have sexual intercourse with a male
partner in early ___ who yesterday informed the patient
that he had hepatitis C. He suspects that he got his hepatitis C
from this partner.
 
Past Medical History:
Hypertension
Atrial fibrillation
Depression/anxiety
IVDU
 
Social History:
___
Family History:
No history of liver or clotting disorders
 
Physical Exam:
PHYSICAL EXAM:  
 VITALS: T 99.0 BP 122 / 81 HR 78 RR 20 O2 Sat 96 
 GENERAL: Alert and interactive. In no acute distress.  
 EYES: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
 ENT: MMM.
 CARDIAC: Regular rhythm, normal rate. No murmurs.
 RESP: Clear to auscultation bilaterally. Normal work of
breathing.
 ABDOMEN: Normal bowels sounds. Soft, nontender, nondistended.
 MSK: No edema. 
 SKIN: Warm. No rash. no track marks. No petechiae, spider
angiomas, clubbing, palmar erythema, or contracture. 
 NEUROLOGIC: Normal neuro exam. Intact cognition and good
attention. A&Ox3. No asterixis. Ambulates normally.  
 PSYCH: Appropriate mood and affect  
 
Pertinent Results:
ADMISSION LABS
===============
___ 03:35AM BLOOD WBC-8.8 RBC-5.10 Hgb-15.7 Hct-46.2 MCV-91 
MCH-30.8 MCHC-34.0 RDW-12.5 RDWSD-41.1 Plt ___
___ 09:43AM BLOOD Neuts-51.5 ___ Monos-20.6* 
Eos-2.2 Baso-0.7 Im ___ AbsNeut-2.74 AbsLymp-1.30 
AbsMono-1.10* AbsEos-0.12 AbsBaso-0.04
___ 03:35AM BLOOD Glucose-133* UreaN-16 Creat-1.3* Na-140 
K-3.7 Cl-102 HCO3-25 AnGap-13
___ 03:35AM BLOOD ALT-1150* AST-511* AlkPhos-103 
TotBili-0.9
___ 09:43AM BLOOD Lipase-64*
___ 03:35AM BLOOD Albumin-4.5 Calcium-9.3 Phos-3.1 Mg-2.1
___ 01:05AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG IgM HAV-NEG

DISCHARGE LABS
=================
___ 02:00PM BLOOD ALT-1457* AST-629* AlkPhos-113 
TotBili-0.8
___ 01:05AM BLOOD HCV VL-6.3*
___ 01:05AM BLOOD HCV Ab-POS*

IMAGING
=================
IMPRESSION: 
 
Normal abdominal ultrasound.  Specifically, no evidence of 
cirrhosis, portal
vein thrombosis, or biliary ductal dilatation.

 
Brief Hospital Course:
Mr. ___ is a ___ male with recent diagnosis of 
hepatitis C and transaminitis presents as referral from 
outpatient GI doctor for persistent transaminitis. These 
remained stable while in house and he was seen by hepatology who 
recommended outpatient follow-up.

TRANSITIONAL ISSUES
=====================
[] Needs LFTs checked on ___ to ensure stability
[] Will establish care at the ___ at ___
[] Needs Chem 10 to check for stability of creatinine
[] Would consider alternative agent to trazodone due to hepatic 
metabolism 
[] CTM Qtc (479) on citalopram and trazodone

ACUTE ISSUES: 
============= 
# Hepatocellular injury 
# Acute HCV Infection 
Patient presenting after being found to have LFTs of AST 993 ALT 
420 as outpatient. Most likely ___ HCV infection (recently 
discovered) as other viral markers have been negative in recent 
work-up ___ at ___ and ___. Less likely autoimmune 
given negative ___, mitochondrial Ab. Less likely drug and 
toxins, given negative serum/urine screens. Less likely NAFLD 
given acuity of transaminitis. Less likely ischemic given pt 
with no recent episodes of hypotension, no hx of CHF,
normal liver U/S with Doppler while in house. Also unlikely 
hemochromatosis, A1AT deficiency given negative work-up. Was 
seen by hepatology, who recommended ongoing monitoring of LFTs 
as outpatient. He will establish care at ___ per patient 
preference.

# Elevated Cr 
Pt with Cr 1.3. Per ___ records, baseline Cr is ___. 
Suspect to be ___ high body muscle mass, less concern for 
significant ___.

# Insomnia:
Patient takes trazodone 200mg qhs at home, though hepatically 
metabolized. 

CHRONIC ISSUES: 
=============== 
# Hypertension 
Continued on home Irbesartan 300mg and HCTZ 12.5mg daily

# History of paroxysmal atrial fibrillation, currently in sinus 
rhythm 
Remained in sinus while in house

# Depression/anxiety 
Continued home citalopram 15mg. 

# IVDU 
Deferred SW this admission

# Hx of on PREP:
Continue Truvada as outpatient

#CODE: FULL CODE presumed 
#CONTACT: ___ 
Relationship: husband Phone: ___ 

Greater than 40 mins spent in discharge planning and 
coordination of care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 200 mg PO QHS:PRN insomnia 
2. irbesartan-hydrochlorothiazide 300-12.5 mg oral DAILY 
3. Citalopram 15 mg PO DAILY 

 
Discharge Medications:
1.  Citalopram 15 mg PO DAILY  
2.  irbesartan-hydrochlorothiazide 300-12.5 mg oral DAILY  
3.  TraZODone 200 mg PO QHS:PRN insomnia  
4.Outpatient Lab Work
AST, ALT, INR, Total and direct bilirubin
___
Fax to Attn: Dr. ___ ___ 

5.Outpatient Lab Work
Chem 10
N17.9
Please fax attn:  
Dr. ___ ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hepatitis C infection
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

You were here because your liver enzymes were high. This is most 
likely from an infection with hepatitis C.

While you were here, you were seen by out hepatologists (liver 
specialists), who want to see you as an outpatient.

When you leave, it is important to take your medications as 
prescribed. You should not take supplements or steroids, as 
these can be dangerous for your inflamed liver. You need to get 
your labs drawn on ___ to make sure your liver tests are 
stable. Do not share toothbrush or razors, and use condoms 
during sexual activity due to risk of transmission.

We wish you the best of luck!

Your ___ Care Team
 
Followup Instructions:
___